US07371743B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propyl]-4-(pyrrolidin-2-on-1-yl)-benzamide
Prepared analogously to Example 27 from 4-(pyrrolidin-2-on-1-yl)-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propylamine, PfTU and TEA in DMSO at ambient temperature and subsequent Boc cleaving with TFA analogously to Example 1g.

reactant | 4-(pyrrolidin-2-on-1-yl)-benzoic acid | N1(C(CCC1)=O)C1=CC=C(C(=O)O)C=C1 | C11H11NO3
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propylamine | ClC1=CC2=C(NC(=N2)[C@H](CCSC)N)C=C1 | C11H14ClN3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulphanyl-propyl]-4-(pyrrolidin-2-on-1-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCSC)NC(C2=CC=C(C=C2)N2C(CCC2)=O)=O)C=C1 | C22H23ClN4O2S
